US04217130
In this example, 8.07 g of N-p-methylphenylsulfonyl-L-proline and 3.03 g of triethylamine are dissolved in 100 ml ethyl acetate, and then dicyclohexyl carbodiimide (DCC; 6.18 g) is added thereto under ice cooling (5°-10° C.). The mixture is stirred for 20 minutes. After addition of 2.79 g aniline, the mixture is subjected to reaction at room temperature overnight with stirring. The deposited precipitate is filtered off, and the filtrate is washed three times with 100 ml water, twice with 100 ml 1N HCl, and then three times with 100 ml water. After drying over anhydrous sodium sulfate (about 30 g), the filtrate is concentrated under reduced pressure, and recrystallized from ethyl acetate-n-hexane (2:1 by volume), whereby N-p-methylphenylsulfonyl-L-proline anilide (compound number 18; 4.9 g; m.p. 140° C.) is obtained. Yield: 47.5%.

reactant | N-p-methylphenylsulfonyl-L-proline | 8.07 g | CC1=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)O)CCC1 | C12H15NO4S
reactant | triethylamine | 3.03 g | C(C)N(CC)CC | C6H15N
reactant | dicyclohexyl carbodiimide | 6.18 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | aniline | 2.79 g | NC1=CC=CC=C1 | C6H7N
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-p-methylphenylsulfonyl-L-proline anilide | 4.9 g, Yield: 47.5% | CC1=CC=C(C=C1)S(=O)(=O)N(C1=CC=CC=C1)C([C@H]1NCCC1)=O | C18H20N2O3S
